US06884801B1
{2-Amino-6-fluorophenyl}(1-pyrrolidinyl)methanone (prepared from pyrrolidine and 5-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give {2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-6-fluorophenyl}(1-pyrrolidinyl)methanone.

reactant | {2-Amino-6-fluorophenyl}(1-pyrrolidinyl)methanone | NC1=C(C(=CC=C1)F)C(=O)N1CCCC1 | C11H13FN2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 5-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione | FC1=CC=CC2=C1C(OC(N2)=O)=O | C8H4FNO3
product | {2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-6-fluorophenyl}(1-pyrrolidinyl)methanone | N1C(=NCC1)CNC1=C(C(=CC=C1)F)C(=O)N1CCCC1 | C15H19FN4O
